US06060469
3-(3-Bromo-4-trifluoromethoxyphenyl)pyridine
3-(4-Trifluoromethoxyphenyl)pyridine (Description 61) (1.26 g, 5.27 mmol) was suspended in aqueous sulfic acid (50%, 16 ml) and cooled to 0° C. Potassium bromate (0.88 g, 5.27 mmol) was added in portions over 2 hours and the mixture was stirred at room temperature for 40 min. The mixture was poured into ice/water and basified with aqueous sodium hydroxide (4M). The mixture was extracted with ethyl acetate (3×100 ml) and the combined organic fractions were washed with brine, dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with hexane/ether (60:40) to give the title compound as an oil (1.2 g, 74%). 1H NMR (360 MHz, CDCl3) δ 8.82 (1H, s), 8.62 (1H, d), 7.84 (2H, m), 7.54 (1H, dd, J=8.5, 2.2 Hz), 7.41 (2H, m). m/z (ES+) 318, 320 (M+1).

reactant | 3-(4-Trifluoromethoxyphenyl)pyridine | 5.27 mmol, 1.26 g | FC(OC1=CC=C(C=C1)C=1C=NC=CC1)(F)F | C12H8F3NO
reactant | Potassium bromate | 5.27 mmol, 0.88 g | Br(=O)(=O)[O-].[K+]
reactant | sodium hydroxide | 4M | [OH-].[Na+]
product | 3-(3-Bromo-4-trifluoromethoxyphenyl)pyridine | 1.2 g, 74% | BrC=1C=C(C=CC1OC(F)(F)F)C=1C=NC=CC1 | C12H7BrF3NO
